US05789417
Using analogous procedures to those described in Example 12, 5-[N-((6RS)-2-methyl-4-oxo-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl)-N-(prop-2-ynyl)amino]pyridine-2-carboxylic acid was reacted with methyl (2S)-2-amino-4-(tetrazol-5-yl)butyrate to give (2S)-2-{5-[N-((6RS)-2-methyl-4-oxo-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl)-N-(prop-2-ynyl)amino]pyridine-2-carboxamido}-4-(tetrazol-5-yl)butyric acid in 33% yield, m.p. 189°-191° C.;

reactant | 5-[N-((6RS)-2-methyl-4-oxo-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl)-N-(prop-2-ynyl)amino]pyridine-2-carboxylic acid | CC1=NC2=CC3=C(C=C2C(N1)=O)C(CC3)N(CC#C)C=3C=CC(=NC3)C(=O)O | C21H18N4O3
reactant | methyl (2S)-2-amino-4-(tetrazol-5-yl)butyrate | N[C@H](C(=O)OC)CCC1=NN=NN1 | C6H11N5O2
product | (2S)-2-{5-[N-((6RS)-2-methyl-4-oxo-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl)-N-(prop-2-ynyl)amino]pyridine-2-carboxamido}-4-(tetrazol-5-yl)butyric acid | 33% yield | CC1=NC2=CC3=C(C=C2C(N1)=O)C(CC3)N(CC#C)C=3C=CC(=NC3)C(=O)N[C@H](C(=O)O)CCC3=NN=NN3 | C26H25N9O4
